US06395733B1
4-(6.7-Dimethyl-2,3-dihydro-indol-1-yl)-pyrido[3,4-d]pyrimidine Hydrochloride
To 4-chloro-pyrido[3,4-d]pyrimidine (200 mg, 1.21 mmol) in isopropanol (3 mL) was added 6,7-dimethylindoline (211 mg, 1.44 mmol) and pyridine (190 mg, 2.41 mmol). The reaction mixture was heated to reflux under an atmosphere of dry nitrogen for 6 hours. Solvent was removed in vacuo and the residue was dissolved in CHCl3 and washed with saturated aqueous sodium carbonate. The organic phase was dried over sodium sulfate concentrated in vacuo, and flash chromatographed on silica in 45% acetone/hexanes to afford 60 mg of the free base of the title product (LC-MS: 278 (MH+). This material was dissolved in a minimum volume of 10% methanol in methylene chloride and 1 mole equivalent of HCl in ether was added dropwise with stirring. The reaction mixture was diluted with four volumes of ether and the precipitated title product was filtered and dried in vacuo (58 mg; M.P. 248° C.; GC-MS: 277 (M+); anal. RP-HPLC:4.06 min.)

reactant | 4-chloro-pyrido[3,4-d]pyrimidine | 1.21 mmol, 200 mg | ClC=1C2=C(N=CN1)C=NC=C2 | C7H4ClN3
reactant | 6,7-dimethylindoline | 1.44 mmol, 211 mg | CC1=CC=C2CCNC2=C1C | C10H13N
reactant | pyridine | 2.41 mmol, 190 mg | N1=CC=CC=C1 | C5H5N
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | 4-(6.7-Dimethyl-2,3-dihydro-indol-1-yl)-pyrido[3,4-d]pyrimidine Hydrochloride | 60 mg | Cl.CC1=CC=C2CCN(C2=C1C)C=1C2=C(N=CN1)C=NC=C2 | InChI=1S/C17H16N4.ClH/c1-11-3-4-13-6-8-21(16(13)12(11)2)17-14-5-7-18-9-15(14)19-10-20-17;/h3-5,7,9-10H,6,8H2,1-2H3;1H
